US07592477B2
Step a) Formation of N-(4-bromobenzyl)-N-[4-(trifluoromethyl)benzyl]amine hydrochloride
A solution of 4-bromobenzaldehyde (5.81 g, 31.4 mmol) and 4-(trifluoromethyl)-benzylamine (5.00 g, 28.6 mmol) in toluene (100 mL) was heated at reflux for 75 min with azeotropic removal of water. The toluene was evaporated off under reduce pressure. The residue was taken up in methanol (100 mL) and cooled to 0° C. NaBH4 (2.16 g, 57.1 mmol) was added portionwise and the reaction mixture was stirred at 0° C. for 1.5 h. The reaction mixture was poured into water (200 mL)/brine (200 mL) and extracted with Et2O (500 mL and 200 mL). The organic layers were washed with brine, combined and dried over MgSO4. The solvent was removed under reduce pressure. The residue was diluted with Et2O (200 mL) and HCl (1N in Et2O, 40 mL) was added. A white solid precipitated out. Filtration, washing with Et2O (3×20 mL) and drying under vacuum at 50° C. for 18 hrs gave the title compound as a white solid (9.74 g, 89%). 1H NMR (DMSO-d6, 300 MHz) δ 9.77 (s, 2H), 7.82 (d, 2H, J=8.5 Hz), 7.76 (d, 2H, J=8.5 Hz), 7.64 (d, 2H, J=8.3 Hz), 7.51 (d, 2H, J=8.3 Hz), 4.25 (s, 2H), 4.17 (s, 2H). M+(LC/MS(ESI)): 344.1. HPLC (Condition A), Rt: 3.16 min (HPLC purity: 99.7%).

reactant | 4-bromobenzaldehyde | 31.4 mmol, 5.81 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 4-(trifluoromethyl)-benzylamine | 28.6 mmol, 5.00 g | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | water | O | H2O
reactant | NaBH4 | 57.1 mmol, 2.16 g | [BH4-].[Na+]
reactant | water | 200 mL | O | H2O
reactant | brine | 200 mL | [Cl-].[Na+].O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-bromobenzyl)-N-[4-(trifluoromethyl)benzyl]amine hydrochloride | 9.74 g, 89% | Cl.BrC1=CC=C(CNCC2=CC=C(C=C2)C(F)(F)F)C=C1 | InChI=1S/C15H13BrF3N.ClH/c16-14-7-3-12(4-8-14)10-20-9-11-1-5-13(6-2-11)15(17,18)19;/h1-8,20H,9-10H2;1H
